### PR TITLE
Define Dagger categories

### PR DESCRIPTION
**Pull request by anshwad10**
To do:

- [ ] Define dagger categories
- [ ] Define univalent dagger categories
- [ ] Define dagger functors

### CODE REVIEW

**Comment by anshwad10** [comment]
Somebody please review this, I've been waiting for months. @ecavallo? @mortberg?

File: Cubical/Categories/Dagger/Properties.agda [hunk 1]
```diff
@@ -0,0 +1,238 @@
...
+    dagCatEquivOp .ε .trans .N-ob _ = id
+    dagCatEquivOp .ε .trans .N-hom f = ⋆IdL ((f †) †) ∙∙ †-invol f ∙∙ sym (⋆IdR f)
+    dagCatEquivOp .ε .nIso _ = idCatIso .snd
+    dagCatEquivOp .triangleIdentities .Δ₁ _ = ⋆IdL _ ∙ †-id
+    dagCatEquivOp .triangleIdentities .Δ₂ _ = ⋆IdL _ ∙ †-id
+
+  private variable
+    x y z w : ob
+
+  -- The following definitions are from The Way of The Dagger, Definition 2.1.3
```
Comment (ecavallo) [inline Cubical/Categories/Dagger/Properties.agda:77]: Can you add the author and a link to this reference?

File: Cubical/Categories/Dagger/Instances/BinProduct.agda [hunk 2]
```diff
@@ -0,0 +1,73 @@
...
+open IsDagger
+open DagCat
+
+BinProdDaggerStr : {C : Category ℓ ℓ'} {D : Category ℓ'' ℓ'''} → DaggerStr C → DaggerStr D → DaggerStr (C ×C D)
+BinProdDaggerStr dagC dagD ._† (f , g) = dagC ._† f , dagD ._† g
+BinProdDaggerStr dagC dagD .is-dag .†-invol (f , g) = ≡-× (dagC .†-invol f) (dagD .†-invol g)
+BinProdDaggerStr dagC dagD .is-dag .†-id = ≡-× (dagC .†-id) (dagD .†-id)
+BinProdDaggerStr dagC dagD .is-dag .†-seq (f , g) (f' , g') = ≡-× (dagC .†-seq f f') (dagD .†-seq g g')
+
+DagBinProd _×D_ : DagCat ℓ ℓ' → DagCat ℓ'' ℓ''' → DagCat (ℓ-max ℓ ℓ'') (ℓ-max ℓ' ℓ''')
```
Comment (ecavallo) [inline Cubical/Categories/Dagger/Instances/BinProduct.agda:30]: Rename `×D` to `×†`?

File: Cubical/Categories/Dagger/Functor.agda [hunk 3]
```diff
@@ -0,0 +1,80 @@
...
+†FuncComp F G .fst = G .fst ∘F F .fst
+†FuncComp {C = C} {D = D} {E = E} F G .snd .F-† f =
+  G .fst ⟪ F .fst ⟪ f †[ C ] ⟫ ⟫ ≡⟨ cong (G .fst .F-hom) (F .snd .F-† f) ⟩
+  G .fst ⟪ F .fst ⟪ f ⟫ †[ D ] ⟫ ≡⟨ G .snd .F-† (F .fst .F-hom f) ⟩
+  G .fst ⟪ F .fst ⟪ f ⟫ ⟫ †[ E ] ∎
+
+_∘†F_ : DagFunctor D E → DagFunctor C D → DagFunctor C E
+G ∘†F F = †FuncComp F G
+
+†Func^op : DagFunctor C D → DagFunctor (opDagCat C) (opDagCat D)
```
Comment (ecavallo) [inline Cubical/Categories/Dagger/Functor.agda:51]: Rename to `_^op†F` to match with the ordinary functor version?

File: Cubical/Categories/Dagger/Functor.agda [hunk 4]
```diff
@@ -0,0 +1,80 @@
...
+†Func^op F .fst = F .fst ^opF
+†Func^op F .snd .F-† f = F .snd .F-† f
+
+†Func≡ : (F G : DagFunctor C D) → F .fst ≡ G .fst → F ≡ G
+†Func≡ {C} {D} F G = Σ≡Prop (isPropIsDagFunctor C D)
+
+open DagCat
+
+†Const : ob D → DagFunctor C D
```
Comment (ecavallo) [inline Cubical/Categories/Dagger/Functor.agda:60]: Rename to `†Constant` to match with the ordinary functor version?

File: Cubical/Categories/Dagger/Properties.agda [hunk 5]
```diff
@@ -0,0 +1,238 @@
...
+
+  is†Monic is†Epic is†Iso is†PIso : Hom[ x , y ] → Type ℓ'
+  is†Monic f = f ⋆ f † ≡ id
+  is†Epic f = f † ⋆ f ≡ id
+  is†Iso f = areInv C f (f †)
+  is†PIso f = f ⋆ f † ⋆ f ≡ f
```
Comment (ecavallo) [inline Cubical/Categories/Dagger/Properties.agda:83]: I suggest `PartialIso` instead of `PIso`, for clarity.

**Review by ecavallo — CHANGES_REQUESTED** [review]
Contents look good. I have some minor comments mostly about naming.

A question about conventions. Is there any logic to when you use `Dagger` (e.g. `DaggerStr`) vs `Dag` (e.g. `DagCat`) vs `†` vs `D` in names? If not, can we pick one (`†`?) to use in all names?

File: Cubical/Categories/Dagger/Functor.agda (hunk 3 above)
Comment (ecavallo) [reply Cubical/Categories/Dagger/Functor.agda:51]: I don't know of any particular reason to keep it.

**Comment by anshwad10** [comment]
oops I was trying to see what was the requested change and accidentally clicked on re-request review.

**Comment by anshwad10** [comment]
Done!
